US04757081
To 150 ml of xylene were added 2.8 g (0.010 mole) of 2-methyl-1,5-diphenyl-1,3,5-pentanetrione, 12.9 g (0.010 mole) of 2,6-difluoroaniline, 3.0 g (0.016 mole) of para-toluenesulfonic acid and 30.0 g of Molecular Sieves 5A, followed by refluxing the resulting mixture for 3 hours. After cooling the reaction mixture, solid matter was filtered off and the filtrate was washed successively with 50 ml of 10% hydrochloric acid, 50 ml of a 10% aqueous solution of sodium hydroxide and water. The filtrate was then dried over anhydrous sodium sulfate. Subsequent to removal of the sodium sulfate by filtration, the solvent was distilled off and the residue was crystallized from a 2:1 mixed solvent of acetone and hexane to give 0.7 g of 1-(2,6-difluorophenyl)-3-methyl-2,6-diphenyl-4(1H)-pyridinone having a melting point of 219°-221° C.

reactant | 2-methyl-1,5-diphenyl-1,3,5-pentanetrione | 0.010 mole, 2.8 g | CC(C(=O)C1=CC=CC=C1)C(CC(=O)C1=CC=CC=C1)=O | C18H16O3
reactant | 2,6-difluoroaniline | 0.010 mole, 12.9 g | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | para-toluenesulfonic acid | 0.016 mole, 3.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(2,6-difluorophenyl)-3-methyl-2,6-diphenyl-4(1H)-pyridinone | 0.7 g | FC1=C(C(=CC=C1)F)N1C(=C(C(C=C1C1=CC=CC=C1)=O)C)C1=CC=CC=C1 | C24H17F2NO
